US07372609B2
4,4′-diamino-2,2′-bipyridine.
1.34 g of 4,4′-dinitro-2,2′-bipyridine-1,1′-dioxide was suspended in 75 mL of methanol under argon. The mixture was cooled to 0° C. then 0.5 g of 5% Pd/C was added followed by portion wise addition of 1.82 g of sodium borohydride over 10 minutes. The mixture was allowed to warm to room temperature then stirred for 48 hours. The mixture was filtered through a two inch plug of Celite.® Rotary evaporation of the filtrate yielded an off-white solid that was dissolved in 100 mL of 20% HCl. Insoluble residue was removed by filtration then the solution was washed with 100 mL of ether followed by neutralization to pH=8 using 50% NaOH. Cooling to 4° C. yielded a white precipitate which was collected by filtration. The solid was dried under vacuum overnight to yield the desired product as a white powder.

reactant | 4,4′-dinitro-2,2′-bipyridine-1,1′-dioxide | 1.34 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C=1[N+](=CC=C(C1)[N+](=O)[O-])[O-] | C10H6N4O6
reactant | sodium borohydride | 1.82 g | [BH4-].[Na+]
solvent | methanol | 75 mL | CO | CH4O
solvent | HCl | 100 mL | Cl | ClH
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4,4′-diamino-2,2′-bipyridine | NC1=CC(=NC=C1)C1=NC=CC(=C1)N | C10H10N4
